US04105776
By substituting 1-(3-mercapto-2-methylpropanoyl)-L-proline tert. butyl ester for the 1-(3-mercaptopropanoyl-L-proline tert.butyl ester in the procedure of Example 18C, 1-(3-mercapto-2-methylpropanoyl)-L-proline is obtained. Rf 0.35 (Silica gel, Benzene/acetic acid 3:1), Rf 0.5 (Silica gel, Methyl-ethylketone/Acetic acid/Pyridine/Water 14:1:2:1), identical to the compound of Example 34.

reactant | 1-(3-mercapto-2-methylpropanoyl)-L-proline tert. butyl ester | C(C)(C)(C)OC([C@H]1N(CCC1)C(C(CS)C)=O)=O | C13H23NO3S
reactant | 3-mercaptopropanoyl-L-proline tert.butyl ester | C(C)(C)(C)OC([C@H]1N(CCC1)C(CCS)=O)=O | C12H21NO3S
product | 1-(3-mercapto-2-methylpropanoyl)-L-proline | SCC(C(=O)N1[C@H](C(=O)O)CCC1)C | C9H15NO3S
